US07868188B2
N-[5-(5-Chloro-6-phenylsulphonylaminopyridin-3-yl)-4-methyl-1,3-thiazol-2-yl]acetamide
Phenylsulfonyl chloride (0.108 mL) was added to a stirred solution of N-[5-(6-amino-5-chloropyridin-3-yl)-4-methyl-1,3-thiazol-2-yl]acetamide (80 mg) in pyridine (1 mL) and the resultant solution was heated to 50° C. for 4 hours. The mixture was cooled to room temperature and concentrated by evaporation. The residue was purified by column chromatography on silica using increasingly polar mixtures of dichloromethane and methanol as eluent. The material so obtained was triturated under diethyl ether. There was thus obtained the title compound as a white solid (38 mg); 1H NMR Spectrum: (DMSOd6) 2.13 (s, 3H), 2.29 (s, 3H), 7.60 (m, 2H), 7.75 (m, 1H), 7.98 (s, 1H), 8.02 (d, 2H), 8.18 (br s, 1H), 10.95 (br s, 1H); Mass Spectrum: M+H+ 423.

reactant | Phenylsulfonyl chloride | 0.108 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | N-[5-(6-amino-5-chloropyridin-3-yl)-4-methyl-1,3-thiazol-2-yl]acetamide | 80 mg | NC1=C(C=C(C=N1)C1=C(N=C(S1)NC(C)=O)C)Cl | C11H11ClN4OS
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | N-[5-(5-Chloro-6-phenylsulphonylaminopyridin-3-yl)-4-methyl-1,3-thiazol-2-yl]acetamide | 38 mg | ClC=1C=C(C=NC1NS(=O)(=O)C1=CC=CC=C1)C1=C(N=C(S1)NC(C)=O)C | C17H15ClN4O3S2
